US05393875
In an analogous manner to that described above, by the condensation of N-[(benzyloxy)carbonyl]-3-(imidazol-1-yl)-L-alanine and (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol followed by catalytic hydrogenation there was obtained (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-3-(imidazol-1-yl)propionamide, MS: 365 (M+H)+, as a colourless foam.

reactant | N-[(benzyloxy)carbonyl]-3-(imidazol-1-yl)-L-alanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CN1C=NC=C1)C(=O)O | C14H15N3O4
reactant | (1S,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1,2-butanediol | N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1 | C13H25NO2
product | (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-3-(imidazol-1-yl)propionamide | N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CN1C=NC=C1 | C19H32N4O3
